US08022223B2
Methyl 3-(5-phenoxy-6-(thiazolo[5,4-b]pyridin-2-ylamino)pyridin-3-ylthio)propanoate
Prepared according to the method of Example 13 from N-(5-bromo-3-phenoxypyridin-2-yl)thiazolo[5,4-b]pyridin-2-amine, methyl 3-mercaptopropanoate and N-ethyl-N-isopropylpropan-2-amine in 75% yield. 1H NMR (d6-DMSO) δ 2.59 (t, 2H), 3.09 (t, 2H), 3.56 (s, 3H), 7.12 (d, 2H), 7.20 (t, 1H), 7.38-7.46 (m, 4H), 7.91 (bs, 1H), 8.24 (s, 1H), 8.36 (d, 1H), 11.53 (bs, 1H).

reactant | N-(5-bromo-3-phenoxypyridin-2-yl)thiazolo[5,4-b]pyridin-2-amine | BrC=1C=C(C(=NC1)NC=1SC2=NC=CC=C2N1)OC1=CC=CC=C1 | C17H11BrN4OS
reactant | methyl 3-mercaptopropanoate | SCCC(=O)OC | C4H8O2S
reactant | N-ethyl-N-isopropylpropan-2-amine | C(C)N(C(C)C)C(C)C | C8H19N
product | Methyl 3-(5-phenoxy-6-(thiazolo[5,4-b]pyridin-2-ylamino)pyridin-3-ylthio)propanoate | 75% yield | O(C1=CC=CC=C1)C=1C=C(C=NC1NC=1SC2=NC=CC=C2N1)SCCC(=O)OC | C21H18N4O3S2
